US07939537B2
Step 2: Benzyl (2-amino-1oxidopyridin-3-yl)carbamate
To a solution of benzyl (2-aminopyridin-3-yl)carbamate in acetone was added a solution of m-chloro perbenzoic acid in acetone and the suspension was stirred at room temperature. After 2 hours the suspension was cooled to 0° C., HCl (2N in Et2O) was added, and the precipitate filtered. To the precipitate was added saturated aqueous NaHCO3, EtOAc and MeOH and the mixture stirred until dissolution. The solution was evaporated and the residue washed with water until the pH of the filtrate was neutral. The solid was dried under vacuum.

reactant | benzyl (2-aminopyridin-3-yl)carbamate | NC1=NC=CC=C1NC(OCC1=CC=CC=C1)=O | C13H13N3O2
reactant | m-chloro perbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | HCl | 2N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | Benzyl (2-amino-1oxidopyridin-3-yl)carbamate | NC1=[N+](C=CC=C1NC(OCC1=CC=CC=C1)=O)[O-] | C13H13N3O3
